US05449686
4-Cyano-4-[3-cyclopentyloxy-4-(4-fluorobenzyloxy)phenyl]cyclohexan-1-one oxime
A solution of 4-cyano-4-[3-cyclopentyloxy-4-(4-fluorobenzyloxy)phenyl)cyclohexan-1-one (0.525 g, 1.49 mmol) and hydroxylamine hydrochloride (0.114 g, 1.63 mmol) in pyridine (5 mL) was stirred at room temperature under an argon atmosphere for 18 h. The mixture was partitioned between 1 N hydrochloric acid and methylene chloride, the organic extract was dried (magnesium sulfate) and the solvent was removed in vacuo. Purification by flash chromatography, eluting with 35% ethylacetate/hexanes, provided a white solid (0.45 g, 82%): m.p. 55°-57° C.

reactant | 4-cyano-4-[3-cyclopentyloxy-4-(4-fluorobenzyloxy)phenyl)cyclohexan-1-one | 1.49 mmol, 0.525 g | C(#N)C1(CCC(CC1)=O)C1=CC(=C(C=C1)OCC1=CC=C(C=C1)F)OC1CCCC1 | C25H26FNO3
reactant | hydroxylamine hydrochloride | 1.63 mmol, 0.114 g | Cl.NO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-Cyano-4-[3-cyclopentyloxy-4-(4-fluorobenzyloxy)phenyl]cyclohexan-1-one oxime | 0.45 g, 82% | C(#N)C1(CCC(CC1)=NO)C1=CC(=C(C=C1)OCC1=CC=C(C=C1)F)OC1CCCC1 | C25H27FN2O3
